US04158058
2-methyl-1,2,3,3a,8,12b-hexahydro-dibenzo[1,2;5,6] cyclohepta[3,4-c]pyrrole.
cis-2-methyl-1,2,3,4,4a,13b-hexahydro-dibenz[2,3;6,7] oxepino[4,5-c]pyridine maleate, m.p. 174°-175° C.; cis-2-methyl-2,3,4,4a,9,13b-hexahydro-1H-dibenzo[1,2;5,6] cyclohepta[3,4-c]pyridine maleate, m.p. 207°-209° C. and the corresponding trans isomer (maleate salt), m.p. 175°-176° C.

reactant | cis-2-methyl-1,2,3,4,4a,13b-hexahydro-dibenz[2,3;6,7] oxepino[4,5-c]pyridine maleate | C(\C=C/C(=O)O)(=O)O.CN1C[C@@H]2[C@H](CC1)C1=C(OC3=C2C=CC=C3)C=CC=C1
reactant | cis-2-methyl-2,3,4,4a,9,13b-hexahydro-1H-dibenzo[1,2;5,6] cyclohepta[3,4-c]pyridine maleate | C(\C=C/C(=O)O)(=O)O.CN1C[C@@H]2[C@H](CC1)C1=C(CC3=C2C=CC=C3)C=CC=C1
product | 2-methyl-1,2,3,3a,8,12b-hexahydro-dibenzo[1,2;5,6] cyclohepta[3,4-c]pyrrole | CN1CC2C(C1)C1=C(CC3=C2C=CC=C3)C=CC=C1 | C18H19N
